US08466289B2
Synthesis of Intermediate 8-Amino-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester (I-5c)
Zinc (296 mg, 0.005 mol) was added to a stirred solution of 7-(2-fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester (400 mg, 0.0008 mol) and NH4Cl (322 mg, 0.006 mol) in water and THF (15 mL). The resulting mixture was stirred at room temperature for 30 minutes. The reaction was monitored by TLC (100% ethylacetate). The reaction mixture was concentrated and partitioned between ethylacetate and water. The organic layer was washed with saturated NaHCO3 solution and concentrated to afford 350 mg of the crude product which was used in the next step without further purification.

reactant | 7-(2-fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester | 0.0008 mol, 400 mg | C(C)(C)(C)OC(=O)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)I)F)[N+](=O)[O-] | C19H20FIN4O5
reactant | NH4Cl | 0.006 mol, 322 mg | [NH4+].[Cl-]
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | Zinc | 0.005 mol, 296 mg | [Zn] | Zn
product | 8-Amino-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester | 350 mg | C(C)(C)(C)OC(=O)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)I)F)N | C19H22FIN4O3
